US06355653B1
8.66 g (0.034 mol) 2-Methylsulfanyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine in 850 ml dichloromethane were oxidised with a solution of 17.6 g (0.067 mol) 3-phenyl-2-(phenylsulfonyl)oxaziridine in 150 ml dichloromethane overnight. Chromatography on aluminiumoxide (dichloromethane/ methanol 97:3) and on silicagel (ethylacetate/methanol 9:1) yielded 5.2 g (57%) 2-methanesulfinyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine, MS m/e (%):274 (M+H+,100).

reactant | 2-Methylsulfanyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.034 mol, 8.66 g | CSC1=NN2C(C=C(C=C2N)C2=NC=CC=C2)=N1 | C12H11N5S
reactant | 3-phenyl-2-(phenylsulfonyl)oxaziridine | 0.067 mol, 17.6 g | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
reactant | ethylacetate methanol | C(C)OC(C)=O.CO
solvent | dichloromethane | 850 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-methanesulfinyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 5.2 g, 57% | CS(=O)C1=NN2C(C=C(C=C2N)C2=NC=CC=C2)=N1 | C12H11N5OS
